US08471005B2
2-{2-[3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethyl-benzenesulfonamide
The above compound was prepared in an analogous fashion to Example 9 replacing phenylboronic acid with N,N-dimethylsulfonamide-2-benzeneboronic acid 2-{2-[3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethyl-benzenesulfonamide as a yellow solid (22 mg, 18%). LCMS (E/I+) 521.20 (M+H). NMR 1H (DSMO-d6)-9.28 (s, 1H), 8.95 (s, 1H), 8.06 (d, 1H, J=7.53 Hz), 7.75-7.85 (m, 2H), 7.62 (d, 1H, J=8.57 Hz), 7.41 (s, 1H), 7.06 (d, 1H, J=8.25 Hz), 6.91 (d, 1H, J=4.60 Hz), 6.86 (d, 1H, J=4.56 Hz), 6.81 (d, 1H, J=8.09 Hz), 3.44 (t, 2H, J=5.64 Hz), 3.25 (s, 3H), 2.40-2.80 (bm, 10H), 2.32 (s, 3H).

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | N,N-dimethylsulfonamide 2-benzeneboronic acid 2-{2-[3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethyl-benzenesulfonamide | 22 mg | CN(S(=O)=O)C.COCCN1CCC2=C(CC1)C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C1=C(C=CC=C1)S(=O)(=O)N(C)C.C1=C(C=CC=C1)B(O)O
product | 2-{2-[3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethyl-benzenesulfonamide | COCCN1CCC2=C(CC1)C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C1=C(C=CC=C1)S(=O)(=O)N(C)C | C27H32N6O3S
